US06255333B1
5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)4-iodo-3-phenylpyrazole
To a stirred solution of 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-phenylpyrazole (0.12 g) and N-iodosuccinirnide (0.08 g) in acetonitrile (5 ml) were left at room temperature overnight. The mixture was evaporated to dryness and the residue partitioned between dichloromethane (15 ml) and water (10 ml). The organic layer was separated and washed with water (20 ml, ×2), brine (15 ml) and dried (MgSO4) and evaporated. The residue was triturated with hexane to give the title compound as a yellow solid, m.p. 162-164° C.

reactant | 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-phenylpyrazole | 0.12 g | NC1=CC(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C1=CC=CC=C1 | C16H10Cl2F3N3
reactant | N-iodosuccinirnide | 0.08 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)4-iodo-3-phenylpyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C1=CC=CC=C1)I | C16H9Cl2F3IN3
